US04139540
a mixture of 11.7 parts of 2-bromo-4'-chloroacetophenone, 9 parts of 1-(p-chlorophenyl)-1,2-ethanediol, 0.5 parts of p-toluenesulfonic acid and 80 parts of benzene is stirred and refluxed for 2 days with water-separator. The reaction mixture is cooled and washed successively twice with a sodium hydrogen carbonate solution and once with water. The organic phase is dried and evaporated. The residue is triturated in petroleum ether and cooled on ice. The precipitated product is filtered off, crystallized from methanol, stirred in acetonitrile while cooling on ice, filtered off again and washed once more with acetonitrile, yielding 2-(bromomethyl)-2,4-bis(p-chlorophenyl)-1,3-dioxolane.

reactant | 2-bromo-4'-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1-(p-chlorophenyl)-1,2-ethanediol | ClC1=CC=C(C=C1)C(CO)O | C8H9ClO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(bromomethyl)-2,4-bis(p-chlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H13BrCl2O2
